US08476287B2
<Step 1> Synthesis of 1-bromo-4-(3-((Tert-butyldimethylsilyl)Oxy)Propoxy)-2,6-dimethylbenzene
According to the method of (Example 17) <Step 1>, from 4-bromo-3,5-dimethylphenol (4.00 g) and 3-((tert-butyldimethylsilyl)oxy)propyl bromide (5.55 g), the subject compound (7.60 g) was obtained as a colorless oil.

reactant | 4-bromo-3,5-dimethylphenol | 4.00 g | BrC1=C(C=C(C=C1C)O)C | C8H9BrO
reactant | 3-((tert-butyldimethylsilyl)oxy)propyl bromide | 5.55 g | [Si](C)(C)(C(C)(C)C)OCCCBr | C9H21BrOSi
product | 1-bromo-4-(3-((Tert-butyldimethylsilyl)Oxy)Propoxy)-2,6-dimethylbenzene | 7.60 g | BrC1=C(C=C(C=C1C)OCCCO[Si](C)(C)C(C)(C)C)C | C17H29BrO2Si
